US04584290
To a solution of benzhydryl 7-formamido-3-ethynyl-3-cephem-4-carboxylate (3 g) in a mixture of methanol (30 ml) and tetrahydrofuran (15 ml) was added phosphorus oxychloride (2.75 g) under ice-cooling. After the resultant mixture was stirred at room temperature for 30 minutes, the reaction mixture was added to diisopropyl ether (300 ml), and the precipitates were collected by filtration. The precipitates were added to a mixture of water (50 ml) and ethyl acetate (50 ml) under stirring, and the mixture was adjusted to pH 7.0 with saturated aqueous sodium bicarbonate. To the separated aqueous layer was added ethyl acetate (50 ml), and the mixture was acidified to pH 3.0 with 10% hydrochloric acid and the resultant precipitates were collected by filtration to give benzhydryl 7-amino-3-ethynyl-3-cephem-4-carboxylate (2.03 g).

reactant | benzhydryl 7-formamido-3-ethynyl-3-cephem-4-carboxylate | 3 g | C(=O)NC1[C@@H]2N(C(=C(CS2)C#C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C23H18N2O4S
reactant | phosphorus oxychloride | 2.75 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | diisopropyl ether | 300 ml | C(C)(C)OC(C)C | C6H14O
solvent | methanol | 30 ml | CO | CH4O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | benzhydryl 7-amino-3-ethynyl-3-cephem-4-carboxylate | 2.03 g | NC1[C@@H]2N(C(=C(CS2)C#C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C22H18N2O3S
